US08138181B2
Step B: Preparation of (trans)-naphthalen-2-ylmethyl 3-fluoro-4-(tosyloxy)pyrrolidine-1-carboxylate:
A flask was charged with (trans)-naphthalen-2-ylmethyl 3-fluoro-4-hydroxypyrrolidine-1-carboxylate (237 mg, 0.819 mmol), TEA (0.343 ml, 2.458mmol) and DMAP (10.0 mg, 0.082 mmol) in DCM (4.3 ml, 0.86 mmol). The reaction mixture was cooled to 0° C., and 4-methylbenzene-1-sulfonyl chloride (234 mg, 1.23 mmol) was added. The reaction was warmed to ambient temperature and stirred for 3 hours. The reaction was diluted with water and extracted with DCM. The combined organic layers were dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography, eluting with 0-5% MeOH in DCM to give the product as an oil (160 mg, 44% yield).

reactant | (trans)-naphthalen-2-ylmethyl 3-fluoro-4-hydroxypyrrolidine-1-carboxylate | 0.819 mmol, 237 mg | F[C@@H]1CN(C[C@H]1O)C(=O)OCC1=CC2=CC=CC=C2C=C1 | C16H16FNO3
reactant | DCM | 0.86 mmol, 4.3 ml | C(Cl)Cl | CH2Cl2
reactant | 4-methylbenzene-1-sulfonyl chloride | 1.23 mmol, 234 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
catalyst | DMAP | 0.082 mmol, 10.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | (trans)-naphthalen-2-ylmethyl 3-fluoro-4-(tosyloxy)pyrrolidine-1-carboxylate | 160 mg, 44% yield | F[C@@H]1CN(C[C@H]1OS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCC1=CC2=CC=CC=C2C=C1 | C23H22FNO5S
